US04515945
From Hardtmann et al., Journal of Heterocyclic Chemistry, Vol. 12, p. 565 (1975), it is known that isatoic anhydride can be alkylated with a sodium hydride/ethyl bromide system to provide a 61% yield of N-ethyl isatoic anhydride after recrystallization.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | sodium hydride ethyl bromide | [H-].[Na+].C(C)Br
product | N-ethyl isatoic anhydride | 61% yield | C(C)N1C=2C(C(=O)OC1=O)=CC=CC2 | C10H9NO3
